US05225402
1-[1-(1-Benzyloxycarbonyl-2-pyrrolidinylcarbonyl)-4-piperidinyl]-3,4-dihydrocarbostyril (0.87 g) is dissolved in ethanol (20 ml) and thereto is added 5% palladium-carbon (0.1 g). The mixture is stirred at room temperature under 1 atm. under hydrogen atmosphere. After the completion of the reaction, the catalyst is filtered off and the filtrate is concentrated. The resultant is purified by silica gel column chromatography (solvent; dichloromethane:methanol=8:1) to give 1-[1-(2-pyrrolidinylcarbonyl)-4-piperidinyl]-3,4-dihydrocarbostyril (205 mg).

reactant | 1-[1-(1-Benzyloxycarbonyl-2-pyrrolidinylcarbonyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 0.87 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(=O)N1CCC(CC1)N1C(=O)CCC2=CC=CC=C12 | C27H31N3O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.1 g | [C].[Pd]
product | 1-[1-(2-pyrrolidinylcarbonyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 205 mg | N1C(CCC1)C(=O)N1CCC(CC1)N1C(=O)CCC2=CC=CC=C12 | C19H25N3O2
